US07683079B2
To a solution of 3-butyl-1-benzyl-piperidine-4-one (9080 mg) in acetone (40 ml) was slowly added methyl iodide (6303 mg) at room temperature. The solution was stirred at room temperature for three hours. A white solid precipitated and was filtered off. The solid was washed four times with 50 ml of acetone and dried under reduced pressure. The filtrate was evaporated and the residue was stirred with ethyl acetate. The white solid was filtered, washed with ethyl acetate and dried under vacuum. The two solids were combined to yield 1-benzyl-3-butyl-1-methyl-4-oxo-piperidinium iodide as a white powder (11200 mg). MS (ESI): 204.2 (M−1−).

reactant | 3-butyl-1-benzyl-piperidine-4-one | 9080 mg | C(CCC)C1CN(CCC1=O)CC1=CC=CC=C1 | C16H23NO
reactant | methyl iodide | 6303 mg | CI | CH3I
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | 1-benzyl-3-butyl-1-methyl-4-oxo-piperidinium iodide | 11200 mg | [I-].C(C1=CC=CC=C1)[N+]1(CC(C(CC1)=O)CCCC)C | InChI=1S/C17H26NO.HI/c1-3-4-10-16-14-18(2,12-11-17(16)19)13-15-8-6-5-7-9-15;/h5-9,16H,3-4,10-14H2,1-2H3;1H/q+1;/p-1
